US05098462
A mixture of ethyl 5-acetyl-2-hydroxy-4-pyrimidinecarboxylate (2.91 g, 13.8 mmol), phosphoryl chloride (11 ml, 118.0 mmol) and diethylaniline (3 ml, 18.0 mmol) is heated to reflux under N2 for 45 min, after which it is cooled to RT and worked up. The residue is distilled, then dissolved in a small amount of methylene chloride and set aside to crystallize. The solid is then filtered, rinsed with methylene chloride and dried to give ethyl 5-acetyl-2-chloro-4-pyrimidinecarboxylate.

reactant | ethyl 5-acetyl-2-hydroxy-4-pyrimidinecarboxylate | 13.8 mmol, 2.91 g | C(C)(=O)C=1C(=NC(=NC1)O)C(=O)OCC | C9H10N2O4
reactant | phosphoryl chloride | 118.0 mmol, 11 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | diethylaniline | 18.0 mmol, 3 ml | CCN(CC)C=1C=CC=CC1 | C10H15N
product | ethyl 5-acetyl-2-chloro-4-pyrimidinecarboxylate | C(C)(=O)C=1C(=NC(=NC1)Cl)C(=O)OCC | C9H9ClN2O3
